US07772271B2
To a solution 6-Ethoxy-1-H-indole (5.0 g, 31 mmol) in CH3CN (31 mL) was added di-tert-butyldicarbonate (7.2 g, 33 mmol) and DMAP (480 mg, 3.9 mmol). The mixture was stirred overnight at room temperature, concentrated and the residue purified by silica gel chromatography (1:1 CH2Cl2/hexane) provided 6-ethoxy-indole-1-carboxylic acid tert-butyl ester (7.67 g, 95%) as a tan oil.

reactant | 6-Ethoxy-1-H-indole | 31 mmol, 5.0 g | C(C)OC1=CC=C2C=CNC2=C1 | C10H11NO
reactant | di-tert-butyldicarbonate | 33 mmol, 7.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 31 mL | CC#N | C2H3N
catalyst | DMAP | 3.9 mmol, 480 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-ethoxy-indole-1-carboxylic acid tert-butyl ester | 7.67 g, 95% | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)OCC | C15H19NO3
